US07345178B2
Preparation of 5-oxazolo[4,5-b]pyridin-2-yl-pyridin-3-ylamine
In a typical run, 790 mg of 2-amino-3-hydroxypyridine (7.24 mmol) and 1.00 g of 5-aminonicotinic acid (7.24 mmol) were mixed with 10 mL of PPA and stirred at 200° C. for 6 hours. The reaction mixture was cooled to about 100° C. and carefully poured into 100 mL of water. The pH was brought to 6 with solid NaOH and the solids were collected by filtration. After drying under high vacuum, a total of 180 mg of 5-oxazolo[4,5-b]pyridin-2-yl-pyridin-3-ylamine.

reactant | 2-amino-3-hydroxypyridine | 7.24 mmol, 790 mg | NC1=NC=CC=C1O | C5H6N2O
reactant | 5-aminonicotinic acid | 7.24 mmol, 1.00 g | NC=1C=NC=C(C(=O)O)C1 | C6H6N2O2
reactant | NaOH | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
product | 5-oxazolo[4,5-b]pyridin-2-yl-pyridin-3-ylamine | O1C(=NC2=NC=CC=C21)C=2C=C(C=NC2)N | C11H8N4O
